US07713973B2
N-(4-(2-ethyl-5-(5-methyl-1H-pyrazol-3-ylamino)imidazo[1,2-c]pyrimidin-7-ylthio)phenyl)cyclopropanecarboxamide
7-chloro-2-ethyl-N-(5-methyl-1H-pyrazol-3-yl)imidazo[1,2-c]pyrimidin-5-amine 0.22 mmol, 0.06 g) was dissolved in DMF (1 mL). N-(4-mercaptophenyl)cyclopropanecarboxamide (0.24 mmol, 0.046 g) and K2CO3 (0.24 mmol, 0.033 g) was added. The reaction mixture was heated to 160° C. using a microwave reactor for 20 minutes. The mixture was then concentrated and purified by LC-MS to give the title compound. 1H NMR (400 MHz, DMSO-d6) δ ppm 0.83-0.84 (m, 4H) 1.25 (t, J=7.45 Hz, 3H) 1.79-1.86 (m, 1H) 2.12 (s, 3H) 2.73 (q, J=7.24 Hz, 2H) 5.80 (s, 1H) 6.65 (s, 1H) 7.58 (d, J=8.59 Hz, 2H) 7.81 (d, J=8.59 Hz, 2H) 8.31 (s, 1H) 10.55 (s, 1H) 10.97 (s, 1H) 12.30 (s, 1H); ESI-MS: m/z calc'd for C22H23N7OS 433.53; found 434.4 (M+H)+.

reactant | 7-chloro-2-ethyl-N-(5-methyl-1H-pyrazol-3-yl)imidazo[1,2-c]pyrimidin-5-amine | 0.22 mmol, 0.06 g | ClC1=CC=2N(C(=N1)NC1=NNC(=C1)C)C=C(N2)CC | C12H13ClN6
reactant | N-(4-mercaptophenyl)cyclopropanecarboxamide | 0.24 mmol, 0.046 g | SC1=CC=C(C=C1)NC(=O)C1CC1 | C10H11NOS
reactant | K2CO3 | 0.24 mmol, 0.033 g | C(=O)([O-])[O-].[K+].[K+]
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
product | N-(4-(2-ethyl-5-(5-methyl-1H-pyrazol-3-ylamino)imidazo[1,2-c]pyrimidin-7-ylthio)phenyl)cyclopropanecarboxamide | C(C)C=1N=C2N(C(=NC(=C2)SC2=CC=C(C=C2)NC(=O)C2CC2)NC2=NNC(=C2)C)C1 | C22H23N7OS
